US05696119
Racemic Methyl 2-[4-(7-chloroquinoxalinyloxy)phenoxy]propionate
A mixture of 2,7-dichloroquinoxaline (2.8 g, 14.1 mmol), methyl 2-(4-hydroxyphenoxy)propanoate (2.76 g, 14.1 mmol), and pulverized potassium carbonate (3.9 g, 28.2 mmol) in acetone (70 mL) was refluxed for 3 hours. The reaction mixture was cooled to room temperature and methylene chloride and water were added to the reaction mixture. The organic phase was removed, and the aqueous phase was extracted with methylene chloride. The combined organic phase was washed with water, dried over potassium carbonate, concentrated, and dried under high vacuum. The product was purified by flash chromatography with 6:1 petroleum ether:ethyl ether to afford the desired product (2.8 g, 55% yield) as a solid: mp 103° C.; MS m/e 359 (M+ +H). Anal. Calcd for C18H15ClN2 O4 : C., 60.26; H, 4.21; N, 7.81; Cl, 9.88. Found: C, 60.44, H, 4.31; N, 7.69, Cl, 9.98.

reactant | 2,7-dichloroquinoxaline | 14.1 mmol, 2.8 g | ClC1=NC2=CC(=CC=C2N=C1)Cl | C8H4Cl2N2
reactant | methyl 2-(4-hydroxyphenoxy)propanoate | 14.1 mmol, 2.76 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
reactant | potassium carbonate | 28.2 mmol, 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetone | 70 mL | CC(=O)C | C3H6O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | Racemic Methyl 2-[4-(7-chloroquinoxalinyloxy)phenoxy]propionate | 2.8 g, 55% yield | ClC1=CC=C2N=CC(=NC2=C1)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C18H15ClN2O4
